US07838674B2
a) 5-Bromo-2-(4-methyl-piperazin-1-yl)-benzonitrile
5-Bromo-2-fluorobenzonitrile (2.0 g, 10 mmol), Cesium carbonate (6.58 g, 20 mmol) and 1-methylpiperazine (1.35 ml, 12 mmol) in 100 ml DMSO are stirred at 120 C for 1 hour. The reaction is quenched by the addition of water and extracted with ethyl acetate. The organic phases are dried and the solvent evaporated. The product obtained is considered pure enough for the next synthesis steps. LC-MS (m/z, ES+): 280 (MH+), Retention time: 1.03 mins (LC-MS method 8)

reactant | 5-Bromo-2-fluorobenzonitrile | 10 mmol, 2.0 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | Cesium carbonate | 20 mmol, 6.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-methylpiperazine | 12 mmol, 1.35 ml | CN1CCNCC1 | C5H12N2
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 5-Bromo-2-(4-methyl-piperazin-1-yl)-benzonitrile | BrC=1C=CC(=C(C#N)C1)N1CCN(CC1)C | C12H14BrN3
